US06093731
An aqueous solution of NaOH (0.7 mL, 1.0 M, 0.7 mmol) was added slowly to a stirred solution of methyl 3-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-4-methoxybenzoate (52.2 mg, 0.113 mmol) in dioxane (2.5 mL) and the mixture stirred at room temperature for 1.5 h, and then at 70° C. for 3 h. The mixture was cooled to room temperature, dilute HCl (2 mL, 2 N) was added, the solvents were evaporated in vacuo and the residue was dried by azeotroping with i-PrOH (×3). The solid was extracted with hot i-PrOH (×4), the combined organic extracts were filtered, and the solvents were evaporated in vacuo. The residue was triturated with Et2O to give 3-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-4-methoxybenzoic acid hydrochloride (29 mg, 0.055 mmol) as a solid.

reactant | NaOH | 0.7 mmol, 1.0 M, 0.7 mL | [OH-].[Na+]
reactant | methyl 3-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-4-methoxybenzoate | 0.113 mmol, 52.2 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC=1C=C(C(=O)OC)C=CC1OC)NC(=N)N | C19H18ClN5O5S
reactant | HCl | 2 N, 2 mL | Cl | ClH
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 3-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-4-methoxybenzoic acid hydrochloride | 0.055 mmol, 29 mg | Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1OC)NC(=N)N | InChI=1S/C18H16ClN5O5S.ClH/c1-29-15-5-2-9(17(25)26)6-14(15)24-30(27,28)10-3-4-11-12(7-10)16(23-18(20)21)22-8-13(11)19;/h2-8,24H,1H3,(H,25,26)(H4,20,21,22,23);1H
